US07429605B2
911 mg (0.56 ml, 7.66 mmol) thionyl chloride were added drop by drop at 0° C. to a solution of 0.2 ml N,N-dimethylformamide (DMF) and 970 mg (3.83 mmol) [6-(3-Trifluoromethyl-phenyl)-pyridine-3-yl]-methanol in 30 ml dichloromethane, stirred for 5 min. at 0° C., and at r.t. for 1 h. The mixture is poured on ice/sodium bicarbonate solution and the organic phase separated. The water phase is extracted with dichloromethane. The combined organic phases were washed with water, dried (sodium sulphate), and evaporated. Purification by chromatography on silica (eluent: ethyl acetate/n-heptane 1:3) gave 750 mg (72%) of 5-Chloromethyl-2-(3-trifluoromethyl-phenyl)-pyridine as light yellow crystals

reactant | thionyl chloride | 7.66 mmol, 0.56 ml, 911 mg | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
reactant | [6-(3-Trifluoromethyl-phenyl)-pyridine-3-yl]-methanol | 3.83 mmol, 970 mg | FC(C=1C=C(C=CC1)C1=CC=C(C=N1)CO)(F)F | C13H10F3NO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-Chloromethyl-2-(3-trifluoromethyl-phenyl)-pyridine | 750 mg, 72% | ClCC=1C=CC(=NC1)C1=CC(=CC=C1)C(F)(F)F | C13H9ClF3N
